US06329372B1
m) N-(Pyridine-4-carbonyl)-O-(2,6-dichlorobenzyl)-L-tyrosine
from O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride and isonicotinic acid. δH (DMSO-d6) 8.68 (2H, dd, J 4.5, 1.6 Hz), 8.4 (1H, d, J 7.2 Hz), 7.63 (2H, dd, J 4.5, 1.6 Hz), 7.6-7.4 (3H, m), 7.15 (2H, d, J 8.6 Hz), 6.87 (2H, d, J 8.6 Hz), 5.14 (2H, s), 4.31 (1H, m), 3.2-2.96 (2H, m); m/z (ESI, 60V) 445 (MH+).

reactant | O-(2,6-dichlorobenzyl)-L-tyrosine methyl ester hydrochloride | Cl.COC([C@@H](N)CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)=O
reactant | isonicotinic acid | C(C1=CC=NC=C1)(=O)O | C6H5NO2
product | N-(Pyridine-4-carbonyl)-O-(2,6-dichlorobenzyl)-L-tyrosine | N1=CC=C(C=C1)C(=O)N[C@@H](CC1=CC=C(C=C1)OCC1=C(C=CC=C1Cl)Cl)C(=O)O | C22H18Cl2N2O4
